US04902701
2-(2-Hydroxyethoxy)-6-(5-tetrazolyl)xanthone
2-(2-Acetoxyethoxy)-6-(5-tetrazolyl)xanthone (1.0 g) was boiled under reflux with a solution of sodium hydroxide (2.0 g) in water (20 ml) for 2.5 h. The solution was cooled and poured into excess aqueous hydrochloric acid and the precipitated product filtered off, washed with water, and dried. Recrystallisation from dimethylformamide gave the title compound, m.p. 270° C. (decomposes).

reactant | 2-(2-Acetoxyethoxy)-6-(5-tetrazolyl)xanthone | 1.0 g | C(C)(=O)OCCOC1=CC=2C(C3=CC=C(C=C3OC2C=C1)C1=NN=NN1)=O | C18H14N4O5
reactant | sodium hydroxide | 2.0 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 20 ml | O | H2O
product | 2-(2-Hydroxyethoxy)-6-(5-tetrazolyl)xanthone | OCCOC1=CC=2C(C3=CC=C(C=C3OC2C=C1)C1=NN=NN1)=O | C16H12N4O4
